US07138425B2
a) 2-(3-Nitro-4-methoxyphenyl)-5-(3,4-difluorophenyl)benzoxazole
Prepared by the method of Example 15d), from 2-(3-nitro-4-methoxyphenyl)-5-bromobenzoxazole (200 mg, 0.57 mmol) and 3,4-difluorophenylboronic acid (134 mg, 0.85 mmol) the subtitle compound was obtained (68 mg, 21%). MS 383 m/z (M+H)+.

reactant | 2-(3-nitro-4-methoxyphenyl)-5-bromobenzoxazole | 0.57 mmol, 200 mg | [N+](=O)([O-])C=1C=C(C=CC1OC)C=1OC2=C(N1)C=C(C=C2)Br | C14H9BrN2O4
reactant | 3,4-difluorophenylboronic acid | 0.85 mmol, 134 mg | FC=1C=C(C=CC1F)B(O)O | C6H5BF2O2
product | 2-(3-Nitro-4-methoxyphenyl)-5-(3,4-difluorophenyl)benzoxazole | [N+](=O)([O-])C=1C=C(C=CC1OC)C=1OC2=C(N1)C=C(C=C2)C2=CC(=C(C=C2)F)F | C20H12F2N2O4
